US06525036B2
A mixture of ethyl 2-chlorocarbonyl-3-cyclohexylpropionate (2.65 mmol), phenethylamine (0.376 mL, 3 mmol) and N-methylmorpholine (0.44 mL, 4 mmol) in ethyl acetate (6 mL) was cooled to between −20 and −10° C. and stirred for 15 minutes. The mixture was allowed to warm to room temperature, stirred for approximately 12 hours and then diluted with ethyl acetate (5 mL) and ice (5 mL). The organic layer was separated, washed with cold 0.05 N hydrochloric acid, sodium bicarbonate solution and brine, dried (MgSO4) and concentrated to provide ethyl 2-cyclohexylmethyl-N-phenethylmalonamate (366 mg, 1.106 mmol).

reactant | ethyl 2-chlorocarbonyl-3-cyclohexylpropionate | 2.65 mmol | ClC(=O)C(C(=O)OCC)CC1CCCCC1 | C12H19ClO3
reactant | phenethylamine | 3 mmol, 0.376 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | N-methylmorpholine | 4 mmol, 0.44 mL | CN1CCOCC1 | C5H11NO
solvent | ethyl acetate | 6 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2-cyclohexylmethyl-N-phenethylmalonamate | 1.106 mmol, 366 mg | C1(CCCCC1)CC(C(=O)OCC)C(=O)NCCC1=CC=CC=C1 | C20H29NO3
